US06911445B2
3-(5-Fluoro-1-methyl-1H-indol-3-yl)-cyclopentanone
A suspension of sodium hydride (60% dispersion in oil, 0.335 g, 8.2 mmol) in dimethylformamide (20 mL) was stirred at room temperature. A solution of 3-(5-fluoro-1H-indol-3-yl)-cyclopentanone (1.5 g, 6.9 mmol) in 10 mL of DMF was added dropwise over 10 min. The reaction mixture was stirred at room temperature for an additional 30 min, then iodomethane (3.1 g, 21.8 mmol) was added. After stirring at room temperature for 24 hours, the reaction mixture was poured into water (100 mL) and extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with water (50 mL) and brine (50 mL), then were dried over anhydrous sodium sulfate, filtered, and concentrated to give 1.6 g of crude product. Flash chromatography on silica gel (50% ethyl acetate/hexane) afforded 1.2 g (81%) of the title compound as a thick oil which solidified on standing. An analytical sample was recrystallized from ethyl acetate/hexane: mp 104-105° C.; MS (ESI) m/z 232 [M+H]+.

reactant | sodium hydride | 8.2 mmol, 0.335 g | [H-].[Na+]
reactant | 3-(5-fluoro-1H-indol-3-yl)-cyclopentanone | 6.9 mmol, 1.5 g | FC=1C=C2C(=CNC2=CC1)C1CC(CC1)=O | C13H12FNO
reactant | iodomethane | 21.8 mmol, 3.1 g | IC | CH3I
reactant | water | 100 mL | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-(5-Fluoro-1-methyl-1H-indol-3-yl)-cyclopentanone | 1.2 g, 81% | FC=1C=C2C(=CN(C2=CC1)C)C1CC(CC1)=O | C14H14FNO
